US06818653B1
6-[(N-4-chlorophenyl)amino]-7-bromo-5,8-quinolindione of Formula 1
CeCl3 (0.1 mmol) as a catalyst and 4 equivalents of 4-chloroaniline (10 mmol) were added to 6,7-dibromo-5,8-quinolindion (10 mmol) dissolved in ethanol (100 ml). The reaction mixture was heated at reflux for 8 hrs. After reading the completion of reaction by TLC, it was cooled, filtered, and recrystallized with ethanol to give redish powder of 6-[(N-4-chlorophenyl)amino]-7-bromo-5,8-quinolidione.

reactant | 4-chloroaniline | 10 mmol, 4 equivalents | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 6,7-dibromo-5,8-quinolindion | 10 mmol | BrC=1C(C=2C=CC=NC2C(C1Br)=O)=O | C9H3Br2NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-[(N-4-chlorophenyl)amino]-7-bromo-5,8-quinolindione | ClC1=CC=C(C=C1)NC=1C(C=2C=CC=NC2C(C1Br)=O)=O | C15H8BrClN2O2
